US07915267B2
4-oxo-N-[(3-{[3-(1H-1,2,4-triazol-3-yloxy)propyl]oxy}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide
To a suspension of 4-oxo-N-({3-[(3-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}propyl)oxy]phenyl}methyl)-3,4-dihydroquinazoline-2-carboxamide obtained in Reference Example 86 (0.285 g, 0.430 mmol) in acetonitrile (6 mL) were added trifluoroacetic acid (1.27 mL) and triethylsilane (0.082 mL, 0.516 mmol) at room temperature, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from diethyl ether-EtOH to give the title compound as a white powder (0.173 g, 96%).

reactant | 4-oxo-N-({3-[(3-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}propyl)oxy]phenyl}methyl)-3,4-dihydroquinazoline-2-carboxamide | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=CC=C1)OCCCOC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H34N6O4
reactant | trifluoroacetic acid | 1.27 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.516 mmol, 0.082 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 4-oxo-N-[(3-{[3-(1H-1,2,4-triazol-3-yloxy)propyl]oxy}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 0.173 g, 96% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=CC=C1)OCCCOC1=NNC=N1 | C21H20N6O4
